US06696471B2
A mixture of 0.6 g (1.6 mmol) of [2-amino-1-(4-fluorophenyl)-5-pyridin-3-yl-1H-pyrrol-3-yl](hydroxyphenyl)methanone, 1.06 g (3.7 mmol) of L-α,β-isopropylideneglycerol-γ-tosylate and 1.2 g (8.7 mmol) of potassium carbonate in 10 mL of DMF was heated at 80°. After 16 h, the reaction mixture was cooled to room temperature, poured into brine and extracted with ethyl acetate. The extracts were dried over sodium sulfate, concentrated under reduced pressure and purified by flash chromatography (gradient elution: 15-50% ethyl acetate/hexane) to give 0.7 g (90%) of [2-amino-1-(4-fluorophenyl)-5-pyridin-3-yl-1H-pyrrol-3-yl]-[3-(2,2-dimethyl-[1,3 ]dioxolan-4(S)-ylmethoxy)-phenyl]-methanone.

reactant | [2-amino-1-(4-fluorophenyl)-5-pyridin-3-yl-1H-pyrrol-3-yl](hydroxyphenyl)methanone | 1.6 mmol, 0.6 g | NC=1N(C(=CC1C(=O)C1=C(C=CC=C1)O)C=1C=NC=CC1)C1=CC=C(C=C1)F | C22H16FN3O2
reactant | L-α,β-isopropylideneglycerol-γ-tosylate | 3.7 mmol, 1.06 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]2COC(O2)(C)C | C13H18O5S
reactant | potassium carbonate | 8.7 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | [2-amino-1-(4-fluorophenyl)-5-pyridin-3-yl-1H-pyrrol-3-yl]-[3-(2,2-dimethyl-[1,3 ]dioxolan-4(S)-ylmethoxy)-phenyl]-methanone | 0.7 g, 90% | NC=1N(C(=CC1C(=O)C1=CC(=CC=C1)OC[C@@H]1OC(OC1)(C)C)C=1C=NC=CC1)C1=CC=C(C=C1)F | C28H26FN3O4
